US07022707B2
5.84 g (23.5 mmol) 4-chlorocarbonyl-piperazine-1-carboxylic acid tert-butyl ester were added to a solution of 6.0 g (24.2 mmol) 4-(4-fluoro-benzyloxy)-phenyl-methanethiol in 14.6 ml pyridine. The solution was heated to 100° C. for 3.5 h, then cooled to rt, 10 ml of water added and the volume reduced to a third. The resulting precipitate is collected, washed with water and dried. The crude product is re-crystallized from hexane/AcOEt. Flash chromatography on silica gel provided 4.90 g 4-[4-(4-fluoro-benzyloxy)-benzylsulfanylcarbonyl]-piperazine-1-carboxylic acid tert-butyl ester as colourless powder, mp: 123–124° C. 1H-NMR (CDCl3): 1.46 s, 9H; 3.38–3.60 m, 8H; 4.13 s, 2H; 5.00 s, 2H; 6.89 d, 2H, 7.06 t, 2H, 7.28 d, 2H and 7.40 dd, 2H.

reactant | 4-chlorocarbonyl-piperazine-1-carboxylic acid tert-butyl ester | 23.5 mmol, 5.84 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)Cl | C10H17ClN2O3
reactant | 4-(4-fluoro-benzyloxy)-phenyl-methanethiol | 24.2 mmol, 6.0 g | FC1=CC=C(COC2=CC=C(C=C2)CS)C=C1 | C14H13FOS
reactant | water | 10 ml | O | H2O
solvent | pyridine | 14.6 ml | N1=CC=CC=C1 | C5H5N
product | 4-[4-(4-fluoro-benzyloxy)-benzylsulfanylcarbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 4.90 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)SCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C24H29FN2O4S
